US09120822B2
Preparation of 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-cyclohexyl]-amide
The titled compound is prepared as a white lyophilizated powder following Scheme 6 and in analogy to Example 1 using [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-cyclohexyl]-carbamic acid text-butyl ester and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid as starting materials.

reactant | [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-cyclohexyl]-carbamic acid | COC=1C=C2C=3CC(COC3C=NC2=CC1)[C@@H]1CC[C@H](CC1)NC(O)=O | C20H24N2O4
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid | O=C1NC2=C(SC1)C=CC(=N2)C(=O)O | C8H6N2O3S
product | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-cyclohexyl]-amide | COC=1C=C2C=3CC(COC3C=NC2=CC1)[C@@H]1CC[C@H](CC1)NC(=O)C=1C=CC=2SCC(NC2N1)=O | C27H28N4O4S
